US04395406
4,6-Dimethyl-5-chloropyrimid-2-one
A solution of chlorine (0.01 mol) in acetic anhydride (100 ml) was added to a solution of 4,6-dimethylpyrimid-2-one (0.008 mol) in acetic anhydride (100 ml) and the solution left at room temperature for 1 hr before the solid precipitate was collected and recrystallised from water; m.p. 235° C. (decomp.)

reactant | chlorine | 0.01 mol | ClCl | Cl2
reactant | 4,6-dimethylpyrimid-2-one | 0.008 mol | CC1=NC(NC(=C1)C)=O | C6H8N2O
solvent | acetic anhydride | 100 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | acetic anhydride | 100 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 4,6-Dimethyl-5-chloropyrimid-2-one | CC1=NC(NC(=C1Cl)C)=O | C6H7ClN2O
